US05064815
Dusting Powder Comprising Primycin
The primycin-NMP basic gel is dissolved in N,N-dimethyl-acetamide under warming and the warm solution is sprayed onto a zinc oxide-talc powder mixture prepared according to Example 15. The sprayed powder mixture is kept in an essiccator for 24 hours at 40° C. and sieved (sieve No. VI, mesh 0.16 mm) and finally homogenized. Thus a white homogeneous powder mixture is obtained.

reactant | primycin NMP | CCCCC1C(C(CCC(CCCC(CCCC(/C(=C/C(C(CC(CC(CC(CC(CCCC/C(=C/C(C(OC1=O)C(C)C(CCCNC(=N)N)O)C)/C)O)O)O)O)O)O[C@@H]2[C@H]([C@@H]([C@H](O2)CO)O)O)/C)O)O)O)C)O.CN1CCCC1=O
solvent | N,N-dimethyl-acetamide | CN(C(C)=O)C | C4H9NO
product | Primycin | CCCCC1C(C(CCC(CCCC(CCCC(/C(=C/C(C(CC(CC(CC(CC(CCCC/C(=C/C(C(OC1=O)C(C)C(CCCNC(=N)N)O)C)/C)O)O)O)O)O)O[C@@H]2[C@H]([C@@H]([C@H](O2)CO)O)O)/C)O)O)O)C)O | C55H103N3O17
